US04508729
(2S)-2-ethoxycarbonylperhydroindole
The (2S)-2-ethoxycarbonylindoline hydrochloride obtained is hydrogenated in solutionin 150 ml of water in the presence of 2 g of palladinised charcoal for 8 hours at 45° C. under 50 kg/cm2 pressure.

reactant | (2S)-2-ethoxycarbonylindoline hydrochloride | Cl.C(C)OC(=O)[C@H]1NC2=CC=CC=C2C1
reactant | charcoal | 2 g | C | CH4
solvent | water | 150 ml | O | H2O
product | (2S)-2-ethoxycarbonylperhydroindole | C(C)OC(=O)[C@H]1NC2CCCCC2C1 | C11H19NO2
